US05514691
(b) N-(4-Bromo-5-tert-butyl-3-isoxazolyl)benzenesulfonamide
3-Amino-4-bromo-5-tert-butylisoxazole (219 mg, 1.0 mmol)was dissolved in dry pyridine (1 ml). Benzenesulfonyl chloride (0.14 ml, 1.1 mmol) and 4-dimethylamino-pyridine (5 mg) were added and the solution was stirred at 50 ° C. for 6 h. The reaction mixture was diluted with dichloromethane (75 ml), washed with 1N HCl (50 ml) and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to yield a crude product, which was purified by column chromatography (9:1 hexanes/ethyl acetate). A crystalline solid was obtained after recrystallization from ethyl acetate/hexanes, m.p. 139°-141° C.

reactant | 3-Amino-4-bromo-5-tert-butylisoxazole | 1.0 mmol, 219 mg | NC1=NOC(=C1Br)C(C)(C)C | C7H11BrN2O
reactant | Benzenesulfonyl chloride | 1.1 mmol, 0.14 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylamino-pyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | N-(4-Bromo-5-tert-butyl-3-isoxazolyl)benzenesulfonamide | BrC=1C(=NOC1C(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C13H15BrN2O3S
